US07566724B2
In the same manner as in Reference Example 13, N-(4-iodophenyl)pyrimidin-2-amine (300 mg) and propyl bromide (0.11 ml) were reacted in the presence of sodium hydride to obtain N-(4-iodophenyl)-N-propylpyrimidin-2-amine (348 mg).

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 300 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | propyl bromide | 0.11 ml | C(CC)Br | C3H7Br
reactant | sodium hydride | [H-].[Na+]
product | N-(4-iodophenyl)-N-propylpyrimidin-2-amine | 348 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CCC | C13H14IN3
